US09119868B2
Step 2: 2-(4-chlorophenyl)-5-cyclopropyl-6-(N-(3-fluoro-4-hydroxyphenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide
6-(N-(4-(benzyloxy)-3-fluorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide (350 mg, 0.565 mmol) was dissolved in ethyl acetate (8.0 mL) and ethanol (8.0 mL). 10% of Pd/C (30.1 mg, 0.283 mmol) was added followed by the addition of H2 (1 atmosphere, balloon). The mixture was stirred for 2 h at RT and filtrated through Celite. The filtrate was concentrated to dryness and rinsed twice with hexane to give the desired product as a white solid which was used without further purification. LCMS (m/z, ES+)=529 (M+H+).

reactant | 6-(N-(4-(benzyloxy)-3-fluorophenyl)methylsulfonamido)-2-(4-chlorophenyl)-5-cyclopropyl-N-methylbenzofuran-3-carboxamide | 0.565 mmol, 350 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)Cl)C(=O)NC)C=C1C1CC1)F | C33H28ClFN2O5S
solvent | ethyl acetate | 8.0 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 8.0 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.283 mmol, 30.1 mg | [Pd] | Pd
product | 2-(4-chlorophenyl)-5-cyclopropyl-6-(N-(3-fluoro-4-hydroxyphenyl)methylsulfonamido)-N-methylbenzofuran-3-carboxamide | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)N(S(=O)(=O)C)C2=CC(=C(C=C2)O)F)C2CC2 | C26H22ClFN2O5S
